US08791119B2
To a solution of 0.360 g (1.06 mmol) of N-tert-butyl-6-fluoro-8-cyano-7-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide in 4.2 ml of methanol is added 0.1 ml (1.1 mmol) of aqueous 35% sodium hydroxide solution and then 0.28 ml (3.2 mmol) of 35-volumes aqueous hydrogen peroxide solution. After stirring for 2 hours at 60° C., a further 0.05 ml (0.5 mmol) of 35-volumes aqueous hydrogen peroxide solution is added and the mixture is stirred for 16 hours at 60° C. After cooling, 0.25 g of sodium thiosulfate dissolved in 0.5 ml of water is added and the heterogeneous mixture is diluted with 75 ml of ethyl acetate. The organic phase is separated out, washed twice with 25 ml of water and then with 25 ml of saturated aqueous sodium chloride solution, after which it is dried over sodium sulfate. The solvent is evaporated off under reduced pressure to give a yellow oil, which is purified by chromatography on a column of silica gel, eluting with a mixture of 2 to 6% methanol in dichloromethane, to give 0.06 g of 6-fluoro-7-phenyl-N2-(tert-butyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide in the form of a solid after triturating in diisopropyl ether, filtering off and drying.

reactant | N-tert-butyl-6-fluoro-8-cyano-7-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxamide | 1.06 mmol, 0.360 g | C(C)(C)(C)NC(=O)N1CC=2N(CC1)C(=C(C2C#N)C2=CC=CC=C2)F | C19H21FN4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | 3.2 mmol, 0.28 ml | OO | H2O2
reactant | hydrogen peroxide | 0.5 mmol, 0.05 ml | OO | H2O2
reactant | sodium thiosulfate | 0.25 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 4.2 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 6-fluoro-7-phenyl-N2-(tert-butyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide | 0.06 g | FC1=C(C(=C2N1CCN(C2)C(=O)NC(C)(C)C)C(=O)N)C2=CC=CC=C2 | C19H23FN4O2
